Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, Muscle Twitching, Vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with DM2, HTN, and HLD who
presents with 2 days of feeling unwell with a headache and one
day of vertigo.

___ evening he started with a headache in the late evening. 
He
went to bed and woke up ___ morning without any change in the
pain. He describes the pain as a left sided throbbing pain 
around
a ___ behind his left eye, does not specifically identify in
the posterior part of his head. Does not radiate, nothing seems
to make it better or worse. He does typically have headache 
twice
per week in the setting of either hyperglycemia or hypoglycemia.
These typical headaches are much shorter acting and self resolve
in the setting of correcting his blood sugar and typically feel
like a sharp stabbing pain over his whole head and never linger. 


On ___ morning, he woke up with the headache but when he
stood up from bed, the room started to spin and felt like his
balance was off. He has been nauseous all day and vomited in the
setting of eating. Also endorses diarrhea every time he eats 
that
started today. The vertigo has never completely gone away the
entire day. Moving seems to make it worse, but he has this
constant feeling of movement. He is able to walk but feels
unsteady while doing so, also felt like he was constantly 
leaning
to the left. This has never happened before, and he feels like 
he
has particular trouble with stairs. 

Denies any recent neck manipulations. No visits to the
___. 

Interestingly, he has had night sweats where he has to get up 
and
change his sheets and clothes over the last week even in the
setting of 2 air conditioners in his room. No fevers, no weight
loss. Had lymph nodes in his groin area a few months ago for
which he was placed on antibiotics.

He also complains of face and hand twitching/muscle spasms. They
only last a few seconds but seem constant in that they occur
about 6 times in 30 min. Usually just underneath the left eye 
but
can be both eyes, also bilateral hand shaking that is
nonrhythmic. No odd smells, epigastric rising sensation, feeling
of de ___ or intense doom. No history of seizures. 
 
Past Medical History:
Hypertension
Hyperlipidemia
Diabetes Mellitus Type 2 (diag. ___ years ago)
Alcohol abuse
Depression
 
Social History:
___
Family History:
- Diabetes mellitus on maternal and paternal sides
- No history of stroke or seizures

 
Physical Exam:
=== ADMISSION EXAM ===
Vitals:  T: 98.2F  HR: 76  BP: 147/82  RR: 18  SaO2: 100% RA
General: NAD, pt is extremely tall
HEENT: NCAT,  no oropharyngeal lesions, neck supple, no cervical
lymphadenopathy, cone of light seen in bilateral tympanic
membranes
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, Speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension. 
No
paraphasias.  No dysarthria. Normal prosody. No apraxia. No
evidence of hemineglect. No left-right confusion.  Able to 
follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, L beating nystagmus with rotatory component when looking 
to
the L and up and down but not just horizontal (worse looking up
than looking down), R beating nystagmus when looking to the 
right
in horizontal gaze, R beating nystagmus with torsional component
when looking to the right and up. No skew. Head impulse test
difficult to interpret as pt refixates when turning head to
either side. V1-V3 without deficits to light touch bilaterally.
No facial movement asymmetry. Hearing intact to finger rub
bilaterally. Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  2+    2+     2+      2+       1
     R  2+    2+     2+      2+       1  

- Sensory: No deficits to light touch or pin prick throughout.

- Coordination: No dysmetria with finger to nose testing
bilaterally but has a subtle dysmetria on HKS on the L. Very 
slow
with finger tapping on the left compared to the right out of
proportion to what is expected in a right handed person.
+cerebellar rebound on the left. Subtle overshoot on the L when
compared to the R on mirror testing. No truncal ataxia.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

=== DISCHARGE EXAM ===
Essentially normal, except minimal direction-changing nystagmus 
on horizontal gaze. No lateralizing cerebellar signs. No skew, 
negative head impulse. Normal gait, negative Romberg. Also, mild 
loss of sensation to pinprick on feet up to mid-calf, but 
proprioception and vibration fully intact. 

 
Pertinent Results:
=== LABS ===
___ 07:10AM BLOOD WBC-6.5 RBC-5.17 Hgb-14.1 Hct-42.9 MCV-83 
MCH-27.3 MCHC-32.9 RDW-12.3 RDWSD-37.1 Plt ___
___ 08:11PM BLOOD Neuts-71.5* Lymphs-17.3* Monos-9.3 
Eos-0.9* Baso-0.7 Im ___ AbsNeut-5.45 AbsLymp-1.32 
AbsMono-0.71 AbsEos-0.07 AbsBaso-0.05
___ 07:10AM BLOOD Plt ___
___ 08:11PM BLOOD ___ PTT-26.8 ___
___ 08:11PM BLOOD Glucose-239* UreaN-9 Creat-1.3* Na-135 
K-3.9 Cl-92* HCO3-27 AnGap-20
___ 07:10AM BLOOD Glucose-165* UreaN-9 Creat-1.2 Na-139 
K-3.8 Cl-98 HCO3-30 AnGap-15
___ 08:11PM BLOOD ALT-42* AST-50* AlkPhos-66 TotBili-0.4
___ 08:11PM BLOOD Albumin-5.0 Calcium-9.9 Phos-3.3 Mg-1.6 
Cholest-326*
___ 08:11PM BLOOD %HbA1c-10.9* eAG-266*
___ 08:11PM BLOOD Triglyc-161* HDL-100 CHOL/HD-3.3 
LDLcalc-194*

=== IMAGING ===
- CTA HEAD & CTA NECK (___)
CTA head: Patent anterior and posterior circulation without 
evidence of 
stenosis or large aneurysm. No enhancing intracranial mass. 
Major dural 
venous sinuses appear patent. 
  
CTA neck: Patent cervical carotid and vertebral arteries without 
evidence of stenosis or dissection. 

- MR HEAD W & W/O CONTRAS (___)
No evidence of infarct or mass, as clinically questioned. Normal 
brain 
MRI. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a past medical history of 
poorly controlled DM2, HTN, and HLD; who presented with 2 days 
of retro-orbital left-sided headache, and one day of vertigo and 
left facial fasciculations. Initial exam was notable for 
direction-changing nystagmus on horizontal gaze, and some 
cerebellar signs on the left (leg dysmetria, and overshoot on 
mirror movements of the left arm). No abnormal facial movements 
were seen. He was admitted out of concern for stroke, but CTA 
and MRI were negative for any vascular abnormalities or acute 
intracranial processes. He received a fluid bolus and his 
symptoms greatly improved. Subsequent exam demonstrated 
persistent direction-changing nystagmus but no lateralizing 
cerebellar signs. There was some bilateral loss of sensation to 
pinprick of feet to distal mid-leg - with intact proprioception 
and vibration sense. Labs were significant for admission glucose 
of 239, HgbA1c 10.9%, LDL 194, AST 50, ALT 42. He has a history 
of alcohol abuse (binge drinking) and admitted drinking heavily 
the evening before symptom onset. He also has poorly controlled 
diabetes (and believes a glucose of 250 is normal, and uses his 
insulin in an unusual, idiosyncratic manner). He has  nighttime 
sweats and "twitching" (per his girlfriend) - which we attribute 
likely due to his alcohol and odd insulin usage causing 
hypoglycemia. He was seen by the ___ diabetes specialists and 
will be started on a new regimen of 75/25 insulin, monitored 
overnight, with plan for close follow-up after discharge. (Of 
note, his BG upon discharge at noon was 221 -- after having 
received his morning 40 units ___ -- and not yet having had 
lunch). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlipiZIDE 5 mg PO with dinner
2. Atorvastatin 40 mg PO EVERY OTHER DAY 
3. Lantus ___ every morning
4. Humalog ___ with dinner
4. Aspirin 162 mg PO BID 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*2 
3.  Humalog ___ 40 Units Breakfast
Humalog ___ 20 Units Dinner 
4.  Atorvastatin 40 mg PO EVERY OTHER DAY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*2 
5.Outpatient Physical Therapy
Vestibular Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine, Migrainous vertigo (Vestibular Migraine) 
Uncontrolled diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were hospitalized for symptoms of headache and dizziness 
(vertigo) concerning for a stroke. We are happy to report that 
your CT scan and MRI were both normal - without any evidence of 
stroke.

The most likely explanation for your symptoms is a type of 
headache called migraine headache. Migraine headaches cause 
pain, but can also cause many other symptoms such as 
nausea/vomiting, light and sound sensitivity, and dizziness. 
Migraines can have many triggers, including alcohol use. Your 
symptoms have resolved with fluids and rest.

During your hospitalization, we noted that your A1c was 10.9%. 
This number is a measure of how well your diabetes is 
controlled, and should normally be less than 7%. We recommend 
you follow up closely with your primary care doctor and take 
steps to better control your blood sugars. We have made an 
appointment for you at the ___ Diabetes Clinic 
tomorrow, ___, at 11am with Dr. ___ below). 

- START aspirin 81mg DAILY. It is not necessary to take a higher 
dose, as this only increases your risk of bleeding 
complications. 
- START atorvastatin (Lipitor) 40mg DAILY (not every other day). 
This is to help lower your cholesterol and reduce your risk of 
heart disease and stroke. 
- START lisinopril (Prinivil, Zestril) 5mg DAILY. This will help 
control your blood pressure and protect your kidneys from the 
effects of diabetes. 
- START Humalog ___ insulin as directed -- 40 units with 
breakfast, and 20 units with dinner. 
- STOP glipizide 5mg. 
 
Followup Instructions:
___